US06841556B2
a) 1-(3,4-Dimethoxyphenyl)butane-1,3-dione (41)
3.9 g of sodium hydride were initially introduced into 150 ml of cyclohexane, and a solution of 15 g of 1-(3,4-dimethoxyphenyl)ethanone in 16.3 ml of ethyl acetate was added. The reaction solution was boiled at 80° C. for 1 h, after which acetic acid was added and the whole was extracted with MTB-ether. The MTB-ether phase was dried over magnesium sulfate and subjected to rotary evaporation. The residue was chromatographed through silica gel (ethyl acetate/heptane 1/6). The following was obtained: 41 C12H14O4 (222.24); MS (ESI) 223 (M+H)

reactant | sodium hydride | 3.9 g | [H-].[Na+]
reactant | cyclohexane | 150 ml | C1CCCCC1 | C6H12
reactant | 1-(3,4-dimethoxyphenyl)ethanone | 15 g | COC=1C=C(C=CC1OC)C(C)=O | C10H12O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 16.3 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-Dimethoxyphenyl)butane-1,3-dione | COC=1C=C(C=CC1OC)C(CC(C)=O)=O | C12H14O4
